Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female with a past medical
history of malaria ___, otherwise healthy, who presents from
___ with cyclic high fevers, diarrhea, and
diffuse body aches after recently returning from ___.
Patient reports that she was in ___ for 3 weeks, working in 
the
facility with children.  While she was there she took malarial
prophylaxis with malarone.  She returned on ___.  The morning 
of
___, she began to have some stomach discomfort.  This was
quickly followed by chills during the afternoon, associated with
headache.  She also had one episode of diarrhea.  On ___, she
felt feverish, with worsening headache.  Started to have several
bouts of liquidy diarrhea, nonbloody.  She notes that this was
also associated with body aches.  She does report a headache 
that
started soon after her initial stomach upset.  His headache is
severe, at times causing her to almost crying pain.  She does
state that her neck is stiff when the headache is at its worse 
as
well.  She reports photophobia, no phonophobia.  She reports the
headache has generally been much better today.
She does not know any sick contacts.  She does note that 2 of 
the
people that she stayed with in ___ needed to take 
ciprofloxacin
for traveler's diarrhea, which she did not experience.  She 
drank
bottled water in a prepared food.  Was in ___, which
she states was not very rural.  Denies any potential sexual
exposures, or HIV exposure. 
She initially presented to ___.  She had a
fever to 103.  Labs there were significant for a white count of
35.  Parasite smear for malaria was sent, reportedly negative. 
She received Vanco and Zosyn, and was transferred to ___
in order to be seen by an infectious disease specialist.

Of note, she is up-to-date on vaccines, including yellow fever.
She was taking prophylaxis for malaria and typhoid. She has had
malaria in the past ___ years ago) and says that she is
experiencing the same symptoms. 

In the ED, initial vitals: T 98.6, HR 84, BP 90/60, RR 16, 98% 
RA

Labs were significant for  

- CBC: WBC 25.1 (92%n), Hgb 12.0, Plt 197

- Lytes:
 
141 / 106 / 7   
------------- 116 
5.3 \ 19 \ 0.9 

- AST: 34  ALT: 12 AP: 57 Tbili: 0.9 Alb: 3.4 Lipase: 38

- Lactate 2.1

- Parst-S: NEGATIVE

- Urine UCG: Negative

- u/a negative 

Imaging was significant for: no imaging 

In the ED, pt received  
___ 14:04 IVF  LR  1000 mL  
___ 14:54 PO Acetaminophen 650 mg 
___ 17:08 IV Ketorolac 15 mg   
___ 17:46 PO/NG LOPERamide 2 mg 
___ 19:03 IVF  LR  Started 250 mL/hr 
___ 20:23 PO Acetaminophen 650 mg 
___ 20:23 IVF  NS 1000 mL ordered
___ 20:59 IV Piperacillin-Tazobactam 4.5 g

Vitals prior to transfer: T 98.8, HR 54, BP 90/52, RR 19, 98% RA 

 
Currently, patient states that generally she is feeling a little
bit better, with fever chills.  She thinks that this may just be
from the cyclical nature of the fevers, but is not sure.  Her
headache right now is fairly mild.  She does note some neck
stiffness when she moves her chin to her chest.
 
ROS: Positive as noted above. Negative for:  No changes in 
vision
or hearing, no changes in balance. No cough, no shortness of
breath, no dyspnea on exertion. No chest pain or palpitations. 
No
nausea or vomiting. No dysuria or hematuria. No hematochezia, no
melena. No numbness or weakness, no focal deficits.  
 
Past Medical History:
- Malaria (___)
- labrum repair and hip flexor tendon lengthening ~ ___
 
 
Social History:
___
Family History:
Reports no significant family history.
 
Physical Exam:
ADMISSION EXAM
VITALS: T 98.3, HR 63, BP 103/66, RR 18, 98% RA  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Neck
supple. Negative Brudzinski and Kernig signs 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation
diffusely.  Bowel sounds present.  No HSM appreciated
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
AVSS
pleasant, NAD, looks well
MMM
RRR no mrg, JVP 8cm
CTAB
s, mildly ttp diffusely, negative HSM, NABS
neg CVAT
wwp, neg edema
A&O grossly, MAEE, DOWB intact
no rashes
no joint swelling
 
Pertinent Results:
ADMISSION RESULTS

___ 01:23PM BLOOD WBC-25.1* RBC-3.91 Hgb-12.0 Hct-35.1 
MCV-90 MCH-30.7 MCHC-34.2 RDW-13.4 RDWSD-43.8 Plt ___
___ 01:23PM BLOOD Neuts-91.7* Lymphs-3.2* Monos-3.7* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-23.01* AbsLymp-0.79* 
AbsMono-0.92* AbsEos-0.00* AbsBaso-0.05
___ 07:30AM BLOOD ___ PTT-26.6 ___
___ 01:23PM BLOOD Glucose-116* UreaN-7 Creat-0.9 Na-141 
K-5.3 Cl-106 HCO3-19* AnGap-16
___ 01:23PM BLOOD ALT-12 AST-34 AlkPhos-57 TotBili-0.9
___ 07:30AM BLOOD Calcium-8.5 Phos-3.0 Mg-1.6
___ 01:23PM BLOOD Albumin-3.4*
___ 01:28PM BLOOD Lactate-2.1*
___ 01:23PM BLOOD Lipase-38

___ 03:31PM URINE Color-Straw Appear-Clear Sp ___
___ 03:31PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:31PM URINE UCG-NEGATIVE

CXR: nil acute

=========
PERTINENT INTERVAL RESULTS

___ parasite smear neg
___ parasite smear neg

___ pending x2
___ cx pending, giardia/cryptosporidium pending, no 
vibrio, no yersinia, no E Coli 0157:H7
___ diff neg

___ ag neg
___ neg final
___ NGTD x2

=========
DISCHARGE RESULTS

___ 08:03AM BLOOD WBC-9.8 RBC-3.96 Hgb-11.6 Hct-35.2 MCV-89 
MCH-29.3 MCHC-33.0 RDW-13.4 RDWSD-43.8 Plt ___
___ 08:03AM BLOOD Neuts-73.7* Lymphs-16.0* Monos-8.7 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-7.18* AbsLymp-1.56 
AbsMono-0.85* AbsEos-0.07 AbsBaso-0.04
___ 08:03AM BLOOD Glucose-105* UreaN-6 Creat-0.8 Na-143 
K-3.7 Cl-104 HCO3-24 AnGap-15
___ 08:03AM BLOOD Calcium-8.7 Mg-1.5*

 
Brief Hospital Course:
___ w previous episode of malaria (unknown type but presumably 
falciparum) p/w fever, HA, diarrhea and malaise I/s/o returning 
from ___. Initially treated broadly with vancomycin/zosyn but 
discharged on azithro treatment for presumed typhoid versus 
other traveler's diarrhea. 

ACUTE/ACTIVE PROBLEMS:
# sepsis
# leukocytosis
# bandemia
# hypovolemia
# diarrhea
# headache
# photophobia
Ddx is broad, but given her return from ___ must consider 
infection acquired abroad. Malaria ruled out with 3 smears (1 at 
___, one at ___ and negative falciparum ag (also adequate 
ppx/netting). ___ and OSH BCx NGTD. While had HA/mild neck 
stiffness on initial symptoms, symptoms became overwhelmingly GI 
with diarrhea and mild abdominal pain and nausea. Was treated 
initially with vancomcyin/zosyn at OSH and then after seen by 
ID, narrowed to azithro (1g on ___ and 500mg qd from ___ 
onwards for a 7d course). ID agreed that patient most likely had 
traveler's diarrhea and agreed that LP was unnecessary, thinking 
patient most likely had typhoid or paratyphoid. Azithro chosen 
over fluoroquinolone given high level of typhoid FQ resistance 
in ___. Received aggressive IVF, WBC and symptoms improved 
with minimal to no diarrhea on day of discharge. Patient was 
able to tolerate PO. Her hypomagnesemia was repleted prior to 
discharge. Patient was advised to avoid large groups (such as 
college) and immunocompromised until diarrhea fully resolved and 
to wash hands carefully. 

# OCP: continued home OCPs.
# depression/anxiety: cont home sertraline
# malaria ppx: was continued on home malaria ppx to complete 7d 
after return home

>30 minutes spent on patient care and coordination on day of 
discharge.

TRANSITIONAL ISSUES
- please recheck BMP, Mg, INR to ensure resolution of discharge 
abnormalities which are suspected to resolve with resolution of 
acute illness
- continue to monitor PO intake and diarrhea
- ensure patient completes abx course and malaria ppx regimen
- please follow up final microbiology at ___ and ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. norgestimate-ethinyl estradiol 0.18/0.215/0.25 mg-35 mcg (28) 
oral DAILY 
3. Atovaquone-Proguanil (250mg-100mg) 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Azithromycin 500 mg PO/NG Q24H Duration: 7 Days 
RX *azithromycin 500 mg 1 tablet(s) by mouth daily Disp #*6 
Tablet Refills:*0 
3.  Atovaquone-Proguanil (250mg-100mg) 1 TAB PO DAILY  
4.  norgestimate-ethinyl estradiol 0.18/0.215/0.25 mg-35 mcg 
(28) oral DAILY  
5.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fever 
severe sepsis
lactic acidosis
diarrhea
presumed enteric fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you. 

You were admitted for fever and diarrhea with headache.

We are not completely sure what the cause of this is yet but we 
think this is due to some sort of gastrointestinal infection, 
possibly typhoid or paratyphoid, which you probably caught while 
abroad. 

This is being treated with antibiotics and should continue to 
get better.

When you go home, please complete the antibiotic course and keep 
up with fluid intake and advance your diet as tolerated. You can 
take over the counter probiotics while on the antibiotics to 
prevent adverse effects. 

Fluids are most important, and don't push yourself too hard on 
the food as it may take time for your stomach to get back to 
normal, and be especially careful not to drink too much milk as 
short term lactose intolerance can happen after an infection 
like this.

Please wash your hands regularly and avoid large crowds 
(including college) and anyone with an ___ medical 
condition until your antibiotics are done and your diarrhea is 
resolved. 

Thank you for your service in global health, and good luck with 
the course towards medical school! 

Feel better soon.

 
Followup Instructions:
___